US07138425B2
b) 2-[5-(5-Bromobenzoxazol-2-yl)-2-methoxyphenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-amino-4-methoxyphenyl)-5-bromobenzoxazole (166 mg, 0.5 mmol) and 1,2,4-benzenetricarboxylic anhydride (100 mg, 0.5 mmol) the title compound was obtained (238 mg, 93%). 1H NMR (DMSO) δ 8.44(dd, 1H), 8.32(m, 3H), 8.10(d, 1H), 8.02(d, 1H), 7.77(d, 1H), 7.57(dd, 1H), 7.48(d, 1H). MS 490.9 m/z (M−H)−.

reactant | 2-(3-amino-4-methoxyphenyl)-5-bromobenzoxazole | 0.5 mmol, 166 mg | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H11BrN2O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.5 mmol, 100 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[5-(5-Bromobenzoxazol-2-yl)-2-methoxyphenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | BrC=1C=CC2=C(N=C(O2)C=2C=CC(=C(C2)N2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)OC)C1 | C23H13BrN2O6
